US08895313B2
4-(Dimethylamino)-3,5-difluoro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide
A stirred mixture of 3,4,5-trifluoro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide (0.10 g, 0.26 mmol), dimethylamine hydrochloride (0.087 g, 1.07 mmol) and potassium carbonate (0.147 g, 1.07 mmol) in dry DMSO (3 ml) was heated at 120° C. for 22.5 h. After cooling to room temperature, the reaction mixture was added to water (100 ml) and the precipitate was collected by vacuum filtration, and washed with water (40 ml). The solid was dried in an oven at 95° C., and then purified by flash chromatography (25:1 DCM/MeOH) to give the title compound (0.084 g, 80%) as a colourless solid.

reactant | 3,4,5-trifluoro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide | 0.26 mmol, 0.10 g | FC=1C=C(C(=O)NC2=CC=C(C=C2)C=2N=C3N(C=C(C=C3)C)C2)C=C(C1F)F | C21H14F3N3O
reactant | dimethylamine hydrochloride | 1.07 mmol, 0.087 g | Cl.CNC
reactant | potassium carbonate | 1.07 mmol, 0.147 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 4-(Dimethylamino)-3,5-difluoro-N-[4-(6-methylimidazo[1,2-a]pyridin-2-yl)phenyl]benzamide | 0.084 g, 80% | CN(C1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2N=C3N(C=C(C=C3)C)C2)C=C1F)F)C | C23H20F2N4O
